US05440044
A solution of 4 g of 2-bromo-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine in 20 ml of dimethylformamide is mixed with 4.1 g of tert-butyldiphenylsilyl chloride and 2.1 g of imidazole and stirred for 15 hours at room temperature. The reaction mixture is poured into 100 ml of diethyl ether, shaken out twice with 20 ml of 1 n hydrochloric acid, 4 times with 20 ml of saturated common salt solution, dried on sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with hexane/0-5% ethyl acetate. 5.5 g of 2-bromo-6[(1E)-(3RS)-3-tert-butyldiphenylsilyloxy-1-undecenyl]-pyridine is obtained as oil.

reactant | 2-bromo-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 4 g | BrC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O | C16H24BrNO
reactant | tert-butyldiphenylsilyl chloride | 4.1 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 2.1 g | N1C=NC=C1 | C3H4N2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-bromo-6[(1E)-(3RS)-3-tert-butyldiphenylsilyloxy-1-undecenyl]-pyridine | 5.5 g | BrC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C32H42BrNOSi
